US04605656
A mixture of 27.6 g of ethyl 2,4-dichlorobenzoate and 20.81 g of ethyl 3-pyridylacetate at 20°-25° is treated portionwise with 10.59 g of sodium methoxide. The mixture is subsequently heated at 65°-70° and resulting readily volatile products are blown off with dry nitrogen. After 20 hours, the mixture is treated with 40 ml of concentrated hydrochloric acid and heated at reflux temperature for 18 hours. The mixture is washed with diethyl ether and the aqueous phase is made basic by adding concentrated ammonia and extracted with methylene chloride. The organic phase is concentrated and the crude product is chromatographed on silica gel with methylene chloride/methanol (98:2) to yield 2',4'-dichloro-2-(3-pyridyl)-acetophenone, which can be crystallized from diethyl ether/n-pentane and melts at 55°-56°.

reactant | ethyl 2,4-dichlorobenzoate | 27.6 g | ClC1=C(C(=O)OCC)C=CC(=C1)Cl | C9H8Cl2O2
reactant | ethyl 3-pyridylacetate | 20.81 g | N1=CC(=CC=C1)CC(=O)OCC | C9H11NO2
reactant | sodium methoxide | 10.59 g | C[O-].[Na+]
solvent | hydrochloric acid | 40 ml | Cl | ClH
product | 2',4'-dichloro-2-(3-pyridyl)-acetophenone | ClC1=C(C=CC(=C1)Cl)C(CC=1C=NC=CC1)=O | C13H9Cl2NO
